US06583180B2
2,4-dichloro-1-(iodomethyl)benzene
2,4-Dichloro-1-(chloromethyl)benzene (0.8 mmoles) in acetone (2 mL) was treated with NaI (0.48 g) and stirred at room temperature overnight. The solvent was removed under reduced pressure and the residue extracted with DMF to provide the title compound.

reactant | 2,4-Dichloro-1-(chloromethyl)benzene | 0.8 mmoles | ClC1=C(C=CC(=C1)Cl)CCl | C7H5Cl3
reactant | NaI | 0.48 g | [Na+].[I-]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 2,4-dichloro-1-(iodomethyl)benzene | ClC1=C(C=CC(=C1)Cl)CI | C7H5Cl2I
